**********
* Copyright Intusoft 1992-1997
* All Rights Reserved
**********
**********
*SRC=PWRSPLY;PWRSPLY;!Generators;Power;Current Limited
*SYM=DCSUPPLY
.SUBCKT PWRSPLY 1 2 {Voltage=5 ILimit =1 Rmin=1u delta=.01}
*smooth cosine limiting with variable sharpness
*Parameters:
*Voltage Voltage Output in Volts, 
*ILimit Current limit in Amps for 1/2 output voltage, 
*Rmin Minimum resistance in Ohms
*delta fraction of Ilimit used from start of limit to 0 volts
R1 4 1 {Rmin}
V1 3 4
B1 3 2 V=I(V1) < {(1-delta/2)  * ILimit } ? 
+ {Voltage}  :  I(V1)  >  {(1+ delta/2)  *  ILimit }  ?  0  : 
+  {Voltage * .5}*(  1+cos(3.14159*(I(V1) - ({(1-delta/2) * ILimit}))/({ILimit* delta}))  )

.ENDS
**********
*SRC=PWRSPLY2;PWRSPLY2;!Generators;Power;Sigmoid Current Limited
*SYM=DCSUPPLY
.SUBCKT PWRSPLY2 VHI VLO {Voltage=5 ILimit=1 Gain=1K Rmin=1u}
*Parameters:
* Voltage Voltage Output in Volts, ILimit Current limit in Amps, Rmin Minimum resistance in Ohms
* Gain Gain
B1 VLO VHI I = V(ER) * {ILimit} / (1 + V(ER))
B2 ER 0 V = ({Voltage} - V(VHI) + V(VLO)) * {Gain}
.ENDS
**********
*SRC=PSUPPLY;PSUPPLY;!Generators;Power;Power Supply
*SYM=PSUPPLY
.SUBCKT PSUPPLY 1 2 3 4 5 6 {VCC=??? VEE=??? VBIAS=???}
*Parameters:
* VCC VCC Output in Volts, VEE VEE Output in Volts, VEE VEE Output in Volts
V1 1 2 {VCC}
R1 1 2 1MEG
V2 3 4 {VEE}
R2 3 4 1MEG
V3 5 6 {VBIAS}
R3 5 6 1MEG
.ENDS
**********
*SRC=AM;AM;!Generators;Signal;
*SYM=AM
.SUBCKT AM 1 2 {CARAMP=??? CARFQ=??? PCTMOD=??? MODFQ=???}
*          + -
*Parameters:
* Caramp Carrier Amplitude in Volts, CarFq Carrier frequency in Hz, 
* PctMod Percent modulation in %, ModFq Modulation Frequency in Hz             
V1 3 2 SIN 0 {CARAMP} {CARFQ}
R1 3 2 100K
R3 4 2 100K
E1 1 2 POLY(2) 3 2 4 2 0 1 0 0 {1/CARAMP}
V2 4 2 SIN 0 {CARAMP * (PCTMOD/100)} {MODFQ}
.ENDS
**********
*SRC=VCO;VCO;VCOs;Sin Wave Output, UIC;
*SYM=VCO
.SUBCKT VCO 3 2 {VPK=??? FREQ=???}
*Parameters:
* Vpk Peak voltage output in Volts, 
* Freq Output Signal Frequency/Volt - 1K would give 1KHz output with 1 Volt input and 
* 2KHz output with 2 Volts Input
* Requires UIC option in the .TRAN
RE1 2 0 1K
E1 2 0 22 0 1
G1 1 0 POLY(2) 22 0 3 0 0 0 0 0 -1 
G2 22 0 POLY(2) 1 0 3 0 0 0 0 0 1 
R2 1 0 1E9
I1 0 1 PULSE {1N*VPK} 0
C1 22 0 {.15915/FREQ} IC=0
R1 22 0 1E9
R3 0 3 1MEG
C2 1 0 {.15915/FREQ} IC={VPK}
.ENDS
**********
*SRC=GEN3;GEN3;!Generators;Signal;Three Phase
*SYM=GEN3
*HELP issyntax.hlp "3 Phase Power Generator"
.SUBCKT GEN3 3 7 1 20  {FREQ=??? VGEN=??? MAGERR=0 PHASE=0}
*Parameters:
* Freq Generator Frequency in Hz, Vgen Phase to Neutral Peak Amplitude in Volts, 
* Magerr Magnitude Error in percent, Phase Phase Error in degrees
C1 2 20 {1/(6.28319K*FREQ)} IC={VGEN}
R1 2 20 1E6
I1 20 2 PULSE {VGEN*1U} 0
* MAKES UIC UNNECESSARY
E1 5 20 20 2 1
V1 3 20 SIN 0 {VGEN} {FREQ} 
E2 7 20 POLY(2) 5 20 3 20 0 -866.00M -500.00M
E3 1 20 POLY(2) 5 20 3 20 0 
+ {(1+.01*MAGERR)*(.866*(1-.5*(.0174533*PHASE)^2)
+ -.5*.0174533*PHASE*(1+.166667*
+ (.0174533*PHASE)^2))}
+ {(1+.01*MAGERR)*(-.5*(1-.5*(.0174533*PHASE)^2)
+ -.866*.0174533*PHASE*(1+.166667*
+ (.0174533*PHASE)^2))}
G1 20 2 20 3 1M
R2 7 0 100MEG
R3 1 0 100MEG
R4 3 0 100MEG
R5 5 0 100MEG
.ENDS
**********
*SRC=PHASE;PHASE;!Generators;Timing;Variable Phase
*SYM=PHASE
.SUBCKT PHASE 2 4 5 {ANGLE=45 VGEN=??? FREQ=???}
*             | | COSINE WAVE
*             | SIN WAVE
*             DELAYED SIN WAVE OUTPUT 
*Parameters:
* Angle Delay in Degrees, Vgen Phase to Neutral Peak Amplitude in Volts,
* Freq Generator Frequency in Hz 
C1 1 0 {1/(6.28319K*FREQ)}
R1 1 0 1E6
E1 5 0 0 1 1
G1 0 1 0 4 1M
E2 2 0 POLY(2) 5 0 4 0 0 {SIN(ANGLE*3.1415926/180)} 
+ {COS(ANGLE*3.1415926/180)}
R5 5 0 1MEG
R4 4 0 1MEG
I1 0 1 PULSE {VGEN*1U} 0
*I1 USED FOR INITIALIZATION OF CAPACITOR
V1 4 0 SIN 0 {VGEN} {FREQ}
.ENDS
**********
*SRC=VCOSQ;VCOSQ;VCOs;Square Wave Output;
*SYM=VCOSQ
.SUBCKT VCOSQ  3 30 {FREQ=??? VLO=0 VHI=5}
*Parameters:
* Vlo Output voltage low in Volts, Vhi Output voltage high in Volts, 
* Freq Output Signal Frequency/Volt - 1K would give 1KHz output with 1 Volt input and 
* 2KHz output with 2 Volts Input
* Requires UIC option in the .TRAN
RE1 2 0 1K
E1 2 0 22 0 1
G1 1 0 POLY(2) 22 0 3 0 0 0 0 0 -1 
G2 22 0 POLY(2) 1 0 3 0 0 0 0 0 1 
R2 1 0 1E9
I1 0 1 PULSE 1E-9 0
C1 22 0 {.15915/FREQ} IC=0
R1 22 0 1E9
R3 0 3 1MEG
C2 1 0 {.15915/FREQ} IC=1
B1 30 0 V=V(2) > .5 ? {VHI} : {VLO}
.ENDS
**********
*SRC=PHASE2;PHASE2;!Generators;Timing;Voltage Controlled Phase
*SYM=PHASE2
.SUBCKT PHASE2 2 4 5 10 {VGEN=??? FREQ=???}
*              | | |  ANGLE IN DEGREES
*              | | COSINE WAVE
*              | SIN WAVE
*              DELAYED SIN WAVE OUTPUT 
*Parameters:
* Vgen Phase to Neutral Peak Amplitude in Volts,
* Freq Generator Frequency in Hz 
C1 1 0 {1/(6.28319K*FREQ)}
R1 1 0 1E6
E1 5 0 0 1 1
G1 0 1 0 4 1M
BE2 2 0 V=(V(5)*SIN(V(10) * 3.1415926/180) + 
+ V(4) * COS(V(10)*3.1415926/180))
R5 5 0 1MEG
R4 4 0 1MEG
I1 0 1 PULSE {VGEN*1U} 0
*I1 USED FOR INITIALIZATION OF CAPACITOR
V1 4 0 SIN 0 {VGEN} {FREQ}
.ENDS
**********
*SRC=PHASE3;PHASE3;!Generators;Timing;Volt. Ctrl. Phase, UIC version
*SYM=PHASE2
.SUBCKT PHASE3 2 4 5 10 {VGEN=??? FREQ=???}
*              | | |  ANGLE IN DEGREES
*              | | COSINE WAVE
*              | SIN WAVE
*              DELAYED SIN WAVE OUTPUT 
*Parameters: VGEN Amplitude In Volts, FREQ Frequency In Hz
* This version for use with .TRAN UIC only!!!.
C1 1 0 {1/(6.28319K*FREQ)} IC={VGEN}
R1 1 0 1E6
E1 5 0 0 1 1
G1 0 1 0 4 1M
BE2 2 0 V=(V(5)*SIN(V(10) * 3.1415926/180) + 
+ V(4) * COS(V(10)*3.1415926/180))
R5 5 0 1MEG
R4 4 0 1MEG
V1 4 0 SIN 0 {VGEN} {FREQ}
.ENDS
**********
*SRC=Exponential;Exponential;!Generators;Signal;Voltage
*SYM=EXPON
.SUBCKT Exponential 1 2 {Initial=0 Pulse=??? RiseDelay=0 RiseTC=??? FallDelay=0 FallTC=???} 
*Parameters: 
* Initial    Initial Value 	    Volts   0
* Pulse      Pulsed Value       Volts   None
* RiseDelay  Rise Delay Time    Sec     0
* RiseTC     Rise Time Constant Sec     Must be entered
* FallDelay  Fall Delay Time    Sec     0
* FallTC     Fall Time Constant Sec     Must be entered
*
V1 1 2 EXP {Initial} {Pulse} {RiseDelay} {RiseTC} {FallDelay} {FallTC}
R1 1 2 1MEG
.ENDS
**********
*SRC=SINE;SINE;!Generators;Signal;Voltage
*SYM=SIN
.SUBCKT SINE 1 2 {Offset=0 Amplitude=??? Freq=??? Delay=0 Damping=0} 
*Parameters:
* Offset DC Voltage Offset in Volts
* Amp Amplitude in Volts
* Freq Frequency in Hz
* Delay Time Delay in Seconds
* Damp Damping factor (See Sin source for definition)
V1 1 2 SIN {Offset} {Amplitude} {Freq} {Delay} {Damping}
R1 1 2 1MEG
.ENDS
**********
*SRC=FM;FM;!Generators;Signal;Voltage
*SYM=FM
.SUBCKT FM 1 2 {Offset=0 Amplitude=??? Freq=??? MODIndex=0 SigFreq=0}
*Parameters:
* Offset DC Current Offset in Amps
* Amp Amplitude in Amps
* Freq Frequency in Hz
* MODIndex FM Modulation factor
* SigFreq Signal Frequency (See FM source for definition)
V1 1 2 SFFM {Offset} {Amplitude} {Freq} {MODIndex} {SigFreq}
R1 1 2 1MEG
.ENDS
**********
*SRC=PULSE;PULSE;!Generators;Signal;Voltage
*SYM=PULSE
.SUBCKT PULSE 1 2 {Initial=0 Delay=0 Pulse=??? Rise=0 Fall=0 Duty=50 Period=???}
*Parameters:
* Initial Initial DC Current value in Amps
* Delay Time Delay in Seconds
* Pulse Pulsed Current value in Amps
* Rise Rise time in Seconds
* Fall Fall time in Seconds
* Duty Duty cycle in percent
* Period Signal period in Seconds
V1 1 2 PULSE {Initial} {Pulse} {Delay} {Rise} {Fall} 
+ {Duty/100*(Period-Rise-Fall)} {Period}
R1 1 2 1MEG
.ENDS
**********
*SRC=SAWTOOTH;SAW;!Generators;Signal;Voltage
*SYM=SAW
.SUBCKT SAW 1 2 {Initial=0 Delay=0 Pulse=??? Duty=50 Skew=50 Period=???}
*Parameters:
* Initial Initial DC Voltage value in Volts
* Delay Time Delay in Seconds
* Pulse Pulsed Voltage value in Volts
* Duty Duty cycle in percent
* Skew Ratio of rise to fall edge times in percent
* Period Signal period in Seconds
V1 1 2 Pulse {INITIAL} {Pulse} {Delay} {(Skew/100)*Duty/100*Period}
+ {(1-(Skew/100))*Duty/100*Period} 1P {Period}
R1 1 2 1MEG
.ENDS
**********
*SRC=ExponentialI;ExponentialI;!Generators;Signal;Current
*SYM=EXPON
.SUBCKT ExponentialI 1 2 {Initial=0 Pulse=??? RiseDelay=0 RiseTC=??? FallDelay=0 FallTC=???} 
*Parameters	Description	        Units   Default
* Initial    Initial Value 	    Amps    0
* Pulse      Pulsed Value       Amps   None
* RiseDelay  Rise Delay Time    Sec     0
* RiseTC     Rise Time Constant Sec     Must be entered
* FallDelay  Fall Delay Time    Sec     0
* FallTC     Fall Time Constant Sec     Must be entered
*
I1 1 2 EXP {Initial} {Pulse} {RiseDelay} {RiseTC} {FallDelay} {FallTC}
.ENDS
**********
*SRC=SINEI;SINEI;!Generators;Signal;Current
*SYM=SIN
.SUBCKT SINEI 1 2 {Offset=0 Amplitude=??? Freq=??? Delay=0 Damping=0} 
*Parameters:
* Offset DC Current Offset in Amps
* Amp Amplitude in Amps
* Freq Frequency in Hz
* Delay Time Delay in Seconds
* Damp Damping factor (See Sin source for definition)
I1 1 2 SIN {Offset} {Amplitude} {Freq} {Delay} {Damping}
.ENDS
**********
*SRC=FMI;FMI;!Generators;Signal;Current
*SYM=FM
.SUBCKT FMI 1 2 {Offset=0 Amplitude=??? Freq=??? MODIndex=0 SigFreq=0}
*Parameters:
* Offset DC Current Offset in Amps
* Amp Amplitude in Amps
* Freq Frequency in Hz
* MODIndex FM Modulation factor
* SigFreq Signal Frequency (See FM source for definition)
I1 1 2 SFFM {Offset} {Amplitude} {Freq} {MODIndex} {SigFreq}
.ENDS
**********
*SRC=PULSEI;PULSEI;!Generators;Signal;Current
*SYM=PULSE
.SUBCKT PULSEI 1 2 {Initial=0 Delay=0 Pulse=??? Rise=0 Fall=0 Duty=50 Period=???}
*Parameters:
* Initial Initial DC Current value in Amps
* Delay Time Delay in Seconds
* Pulse Pulsed Current value in Amps
* Rise Rise time in Seconds
* Fall Fall time in Seconds
* Duty Duty cycle in percent
* Period Signal period in Seconds
I1 1 2 PULSE {Initial} {Pulse} {Delay} {Rise} {Fall} 
+ {Duty/100*(Period-Rise-Fall)} {Period}
.ENDS
**********
*SRC=SAWTOOTHI;SAWI;!Generators;Signal;Current
*SYM=SAW
.SUBCKT SAWI 1 2 {Initial=0 Delay=0 Pulse=??? Duty=50 Skew=50 Period=???}
*Parameters:
* Initial Initial DC Current value in Amps
* Delay Time Delay in Seconds
* Pulse Pulsed Current value in Amps
* Duty Duty cycle in percent
* Skew Ratio of rise to fall edge times in percent
* Period Signal period in Seconds
I1 1 2 Pulse {INITIAL} {Pulse} {Delay} {(Skew/100)*Duty/100*Period}
+ {(1-(Skew/100))*Duty/100*Period} 1P {Period}
.ENDS
**********

